US04431659
A mixture of 2.11 grams (0.013 mole) of 2-phenyl-3-pyrazolidinone, 2.21 grams (0.013 mole) of 4-chlorophenyl isothiocyanate and 0.5 ml of pyridine in 15 ml of toluene was heated at reflux for 9 hours. The reaction mixture was allowed to cool to room temperature forming a crystalline precipitate. The crystalline precipitate was collected by filtration to yield 3.92 grams of 1-(4-chlorophenylthiocarbamoyl)-2-phenyl-3-pyrazolidinone (mp 136°-139° C.).

reactant | 2-phenyl-3-pyrazolidinone | 0.013 mole, 2.11 grams | C1(=CC=CC=C1)N1NCCC1=O | C9H10N2O
reactant | 4-chlorophenyl isothiocyanate | 0.013 mole, 2.21 grams | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-chlorophenylthiocarbamoyl)-2-phenyl-3-pyrazolidinone | 3.92 grams | ClC1=CC=C(C=C1)NC(=S)N1N(C(CC1)=O)C1=CC=CC=C1 | C16H14ClN3OS
